US07465731B2
To a solution of ethyl (2E)-3-[6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride (309 mg) in EtOH (5 ml) was added Et3N (0.921 ml), then benzaldehyde (0.117 ml) and titanium(IV) isopropoxide (0.463 ml), the mixture was stirred at 23° C. for 12 hours. To the mixture was added sodium borohydride, the mixture was stirred at 23° C. for 24 hours. The reaction mixture was poured into sat.NaHCO3aq. (20 ml)-AcOEt (20 ml), the insoluble material was removed by filtration, then the filtrate was extracted with ethyl acetate. The extracts were washed with water, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography eluted with 5% MeOH in dichloromethane to give ethyl (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-5-chloro-3-pyridyl}acrylate (328 mg).

reactant | ethyl (2E)-3-[6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride | 309 mg | Cl.Cl.N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC
reactant | Et3N | 0.921 ml | CCN(CC)CC | C6H15N
reactant | benzaldehyde | 0.117 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | titanium(IV) isopropoxide | 0.463 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | ethyl (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-5-chloro-3-pyridyl}acrylate | 328 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=N1)/C=C/C(=O)OCC)Cl | C22H26ClN3O2
